US04594345
One gram of 2'-ethoxy-3-methylflavone-8-carboxylic acid prepared by the same way as Example 1 is dissolved in 30 ml of dimethyl formamide, 0.5 gram of anhydrous potassium carbonate is added thereto, 2 grams of ethylene bromohydrin is dropped thereinto with stirring, and the mixture is stirred at 50° C. for four hours. Then it is poured into ice water, the mixture is neutralized with 10% hydrochloric acid, extracted with ethyl acetate, the extract is washed with water, dried with anhydrous magnesium sulfate, the solvent is evaporated therefrom, and the residue is recrystallized from a mixture of benzene and n-hexane to give 0.8 gram of beta-hydroxyethyl 2'-ethoxy-3-methylflavone-8-carboxylate, colorless needles, melting point 143° to 144.5° C.

reactant | 2'-ethoxy-3-methylflavone-8-carboxylic acid | One gram | C(C)OC1=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)O)C=CC=C1 | C19H16O5
reactant | potassium carbonate | 0.5 gram | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene bromohydrin | 2 grams | C(CO)Br | C2H5BrO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | beta-hydroxyethyl 2'-ethoxy-3-methylflavone-8-carboxylate | 0.8 gram | C(C)OC1=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)OCCO)C=CC=C1 | C21H20O6
